US06730681B2
5-[5,6-Dihydroimidazo[1,2-α]pyrazin-7(8H)-y]-7-fluoro-3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazoline
Prepared from 5,6,7,8-tetrahydroimidazo[1,2-α]pyrazine and 7-fluoro-3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline as described for Example 1, step c (0.031 g, 26%). Found: C, 61.72; H, 3.79; N, 23.14. C21H15F2N7.0.33(H2O) requires C, 61.65; H, 3.86; N, 23.96%. δH (360 MHz; CDCl3) 4.09 (2H, dd, J=5 and 5), 4.05 (2H, dd, J=5 and 5), 4.97 (2H, s), 6.93 (1H, d, J=1), 7.07 (1H, d, J=1), 7.21-7.32 (2H, m), 7.37-7.40 (1H, m), 7.67-7.74 (2H, m), 8.06 (1H, ddd, J=7, 7 and 2), 8.75 (1H, dd, J=8 and 5); m/z (ES+) 404 (M+H+).

reactant | 5,6,7,8-tetrahydroimidazo[1,2-α]pyrazine | N=1C=CN2C1CNCC2 | C6H9N3
reactant | 7-fluoro-3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline | FC=1C=C2C(=NC=3N(C2=CC1)N=NC3C3=C(C=CC=C3)F)OS(=O)(=O)C3=CC=C(C=C3)C | C22H14F2N4O3S
product | 5-[5,6-Dihydroimidazo[1,2-α]pyrazin-7(8H)-y]-7-fluoro-3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazoline | N=1C=CN2C1CN(CC2)C2=NC=1N(C3=CC=C(C=C23)F)N=NC1C1=C(C=CC=C1)F | C21H15F2N7
